US07872009B2
Step 2: 5-Cyano-1-cyclopentyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid
A mixture of Methyl 5-cyano-1-cyclopentyl-6-oxo-1,6-dihydropyridine-3-carboxylate (290 mg, 1.2 mmol) and 1N sodium hydroxide (6 mL, 6.0 mmol) in methanol (12 mL) was heated to reflux for 1 h and brought to RT. The mixture was concentrated and the residue obtained was dissolved in ethylacetate (20 mL), acidified with 1N hydrochloric acid (pH ˜5). The organic phase was separated, dried over magnesium sulfate and concentrated to afford the title compound as a light yellow solid. MS m/z: 233 (M+1).

reactant | Methyl 5-cyano-1-cyclopentyl-6-oxo-1,6-dihydropyridine-3-carboxylate | 1.2 mmol, 290 mg | C(#N)C1=CC(=CN(C1=O)C1CCCC1)C(=O)OC | C13H14N2O3
reactant | sodium hydroxide | 6.0 mmol, 1N, 6 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, pH ˜5 | Cl | ClH
solvent | methanol | 12 mL | CO | CH4O
solvent | ethylacetate | 20 mL | C(C)OC(C)=O | C4H8O2
product | 5-Cyano-1-cyclopentyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid | C(#N)C1=CC(=CN(C1=O)C1CCCC1)C(=O)O | C12H12N2O3
